US08703946B2
Sodium (6.74 g, 293 mmol) was added to EtOH (808 mL) at 0° C. The mixture was stirred at 0° C. until the sodium was completely dissolved. Then phenoxy-2-propanone (53 mL, 266 mmol) was added dropwise. The mixture was stirred at 0° C. for 10 minutes and then diethyl oxalate (36 mL, 266 mmol) was added. Then the mixture was stirred at room temperature for 16 hours and the solvent was evaporated in vacuo. The residue was dissolved in H2O and the mixture was acidified with a 1M solution of HCl and extracted with DCM. The organic layer was separated, dried (Na2SO4), filtered and the solvents evaporated in vacuo. The crude product was purified by open column chromatography (silica; DCM) to yield 2,4-dioxo-5-phenoxy-pentanoic acid ethyl ester (35.9 g, 54% yield) as an oil.

reactant | Sodium | 293 mmol, 6.74 g | [Na] | Na
reactant | phenoxy-2-propanone | 266 mmol, 53 mL | O(C1=CC=CC=C1)CC(C)=O | C9H10O2
reactant | diethyl oxalate | 266 mmol, 36 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | EtOH | 808 mL | CCO | C2H6O
product | 2,4-dioxo-5-phenoxy-pentanoic acid ethyl ester | 35.9 g, 54% yield | C(C)OC(C(CC(COC1=CC=CC=C1)=O)=O)=O | C13H14O5
